US07745484B2
Step 4: 6-bromo-2-methyl-2-(trifluoromethyl)chroman-4-one
A mixture of malonic acid (1.2 ml, 19 mmol) and (Z)-N-(6-bromo-2-(trifluoromethyl)-4H-chromen-4-ylidene)(phenyl)methanamine (6.63 g, 17 mmol) in dioxane was heated to reflux for 18 h until the reaction was completed. The mixture was cooled to RT and treated with 50% EtOH/H2O (20 ml) followed by conc. HCl (5.0 ml). The resulted mixture was left to stand at RT for 40 min, and then diluted with water (500 ml). The product was extracted with hexane (3×300 ml). The organic layers were combined, dried over Na2SO4, filtered and concentrated. The residue was purified on silica gel column (2-10% EtOAc/hexane) to afford the title compound as yellow oil. MS m/z: 310 (M+1).

reactant | malonic acid | 19 mmol, 1.2 ml | C(CC(=O)O)(=O)O | C3H4O4
reactant | (Z)-N-(6-bromo-2-(trifluoromethyl)-4H-chromen-4-ylidene)(phenyl)methanamine | 17 mmol, 6.63 g | BrC=1C=C2\C(\C=C(OC2=CC1)C(F)(F)F)=N/CC1=CC=CC=C1 | C17H11BrF3NO
reactant | EtOH H2O | 20 ml | CCO.O
reactant | HCl | 5.0 ml | Cl | ClH
reactant | water | 500 ml | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 6-bromo-2-methyl-2-(trifluoromethyl)chroman-4-one | BrC=1C=C2C(CC(OC2=CC1)(C(F)(F)F)C)=O | C11H8BrF3O2
